US04093812
Stir together 2.5 g of 1-methyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehydeoxime, 1.27 g of acetic anhydride and 10 ml of benzene for 2 hours at from 80° to 85° C. Cool the resulting solution and vacuum filter to obtain 1-methyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehyde-(O-acetyloxime) [m.p. 192° to 197° C (with decomposition) from toluene] with a yield of 83%.

reactant | 1-methyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehydeoxime | 2.5 g | CN1N=C(C(=C1)C=NO)C=1OC(=CC1)[N+](=O)[O-] | C9H8N4O4
reactant | acetic anhydride | 1.27 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 1-methyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehyde-(O-acetyloxime) | yield of 83% | C(C)(=O)ON=CC=1C(=NN(C1)C)C=1OC(=CC1)[N+](=O)[O-] | C11H10N4O5
